US06348474B1
Ethyl 1-(2,4-dichlorobenzyl)-2-methylindolizine-7-carboxylate
Ethyl 1-(2,4-dichorobenzoyl)-2-methylindolizine-7-carboxylate (3.17 g) was dissolved in tetrahydrofuran (32 ml), and a 10M borane-dimethyl sulfide complex (9.5 ml) was dropwise added under ice-cooling. The mixture was stirred at room temperature for 3.5 hr, neutralized and partitioned between ethyl acetate and water. The organic layer was washed three times with water and then with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to dryness. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=19/1) to give the objective compound (1.81 g) as a pale-yellow oil.

reactant | Ethyl 1-(2,4-dichorobenzoyl)-2-methylindolizine-7-carboxylate | 3.17 g | ClC1=C(C(=O)C=2C(=CN3C=CC(=CC23)C(=O)OCC)C)C=CC(=C1)Cl | C19H15Cl2NO3
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | Ethyl 1-(2,4-dichlorobenzyl)-2-methylindolizine-7-carboxylate | 1.81 g | ClC1=C(CC=2C(=CN3C=CC(=CC23)C(=O)OCC)C)C=CC(=C1)Cl | C19H17Cl2NO2
